US06596738B1
To a stirred mixture of 3-phenylpropionic acid (46 mg, 0.304 mmol) and 1-hydroxybenzotriazol (45 mg, 0.334 mmol) in dichloromethane (5 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (52 mg, 0.334 mmol) at ice-bath temperature. The mixture was stirred for 40 minutes at room temperature. And then 1-[(R)-4-(6-aminoindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide (130 mg, 0.304 mmol) was added to the mixture at ice-bath temperature. After adding, the resulting mixture was stirred for 4 hours at room temperature. The solvent was concentrated in vacuo. And then the residue was extracted with ethyl acetate and washed with water and brine. The organic layer was dried (sodium sulfate) and concentrated in vacuo. The residue was purified by silica gel (6 g) column chromatography eluting with chloroform/methanol (30:1) to give 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-(3-phenylpropionylamino) indol-1-yl)-2-butyl]imidazole-4-carboxamide (170.6 mg, 100%).

reactant | 3-phenylpropionic acid | 0.304 mmol, 46 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | 1-hydroxybenzotriazol | 0.334 mmol, 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.334 mmol, 52 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-[(R)-4-(6-aminoindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide | 0.304 mmol, 130 mg | NC1=CC=C2C=CN(C2=C1)CC[C@H](CO[Si](C)(C)C(C)(C)C)N1C=NC(=C1)C(=O)N | C22H33N5O2Si
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-(3-phenylpropionylamino) indol-1-yl)-2-butyl]imidazole-4-carboxamide | 170.6 mg, 100% | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=CC2=CC=C(C=C12)NC(CCC1=CC=CC=C1)=O)N1C=NC(=C1)C(=O)N | C31H41N5O3Si
